US06083908
To a solution of (2R)-2-[N-(9H-fluoren-9-ylmethoxycarbonyl)-N-methylamino]-3-naphthalen-2-ylpropionic acid (0.6 g, 1.33 mmol) in methylene chloride (10 ml) was added 1-hydroxy-7-azabenzotriazole (0.18 g, 1.33 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.25 g, 1.33 mmol) and the mixture was cooled to 0° C. Then N-methyl-N'-((2R)-2-(methylamino)-3-phenylpropionyl)hydrazinecarboxylic acid tert-butyl ester (0.34 g, 1.11 mmol) and diisopropylethylamine (0.25 ml, 1.44 mmol) were added and the mixture was stirred at room temperature overnight. Then methylene chloride (50 ml) was added and the mixture was washed with water (10 ml), saturated sodium bicarbonate (10 ml), brine (10 ml), dried (MgSO4), filtered and concentrated in vacuo. The product was chromatographed on silica (40 g) with heptane:ethyl acetate (2:1) to give 0.53 g (64%) of N'-[(2R)-2-(N-((2R)-2-[N-(((9H-fluoren-9-yl)methoxy)carbonyl)-N-methylamino]-3-(2-naphthyl)propionyl)-N-methylamino)-3-phenylpropionyl]-N-methylhydrazinecarboxylic acid tert-butyl ester as a colourless oil.

reactant | (2R)-2-[N-(9H-fluoren-9-ylmethoxycarbonyl)-N-methylamino]-3-naphthalen-2-ylpropionic acid | 1.33 mmol, 0.6 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N(C)[C@@H](C(=O)O)CC1=CC2=CC=CC=C2C=C1 | C29H25NO4
reactant | 1-hydroxy-7-azabenzotriazole | 1.33 mmol, 0.18 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.33 mmol, 0.25 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N-methyl-N'-((2R)-2-(methylamino)-3-phenylpropionyl)hydrazinecarboxylic acid tert-butyl ester | 1.11 mmol, 0.34 g | C(C)(C)(C)OC(=O)N(NC([C@@H](CC1=CC=CC=C1)NC)=O)C | C16H25N3O3
reactant | diisopropylethylamine | 1.44 mmol, 0.25 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N'-[(2R)-2-(N-((2R)-2-[N-(((9H-fluoren-9-yl)methoxy)carbonyl)-N-methylamino]-3-(2-naphthyl)propionyl)-N-methylamino)-3-phenylpropionyl]-N-methylhydrazinecarboxylic acid tert-butyl ester | 0.53 g, 64% | C(C)(C)(C)OC(=O)N(NC([C@@H](CC1=CC=CC=C1)N(C)C([C@@H](CC1=CC2=CC=CC=C2C=C1)N(C)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)=O)C | C45H48N4O6
